US08242133B2
A mixture of 0.30 g of 2-(3-aminopyridin-4-yl)-5-(trifluoromethyl)benzoxazole and 3 ml of trifluoroacetic anhydride was stirred while heating at 60° C. for 15 minutes. The reaction mixture was cooled to room temperature, and then water and a saturated aqueous solution of sodium hydrogencarbonate were added to the reaction mixture. The precipitated crystals were filtered. The resultant crystals were dissolved in ethyl acetate. The resultant solution was washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.32 g of 2,2,2-trifluoro-N-[4-(5-trifluoromethylbenzoxazole-2-yl)pyridin-3-yl]acetamide (hereinafter, referred to as “active compound 130”).

reactant | 2-(3-aminopyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.30 g | NC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H8F3N3O
reactant | trifluoroacetic anhydride | 3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 2,2,2-trifluoro-N-[4-(5-trifluoromethylbenzoxazole-2-yl)pyridin-3-yl]acetamide | 0.32 g | FC(C(=O)NC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
